US06025503
To 258 mg (1.2 mmol) of (E)-1-methoxy-3-tert-butyldimethylsilyloxy-1,3-butadiene and 130 mg (1 mmol) of n-butylglyoxylate was added at 0° C. the solution of the complex in toluene obtained above. After stirring for 2 hours, 0.1 ml of trifluoroacetic acid was added thereto. Next, the reaction mixture was stirred for 5 minutes, then poured into a saturated aqueous solution of sodium bicarbonate and filtered through celite. Then the filtrate was extracted with ether thrice and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1). Thus 79 mg of n-butyl 3,4-dihydro-4-oxo-2H-pyran-2-carboxylate was obtained (yield: 40%). When measured with CHIRALPAK AD column (manufactured by Daicel Chemical Industries) [hexane:i-PrOH=10:1, flow rate: 1.0 ml/min], the optical purity of this product was 50% e.e.

reactant | (E)-1-methoxy-3-tert-butyldimethylsilyloxy-1,3-butadiene | 1.2 mmol, 258 mg | CO\C=C\C(=C)O[Si](C)(C)C(C)(C)C | C11H22O2Si
reactant | n-butylglyoxylate | 1 mmol, 130 mg | C(CCC)C(C(=O)[O-])=O
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | n-butyl 3,4-dihydro-4-oxo-2H-pyran-2-carboxylate | 79 mg, yield: 40% | O=C1CC(OC=C1)C(=O)OCCCC | C10H14O4
